US04536209
Production of N-[2,4-dichloro-5-(1-carboxyethyloxy)phenyl]-3,4,5,6-tetrahydrophthalimide
A mixture of 14.4 g. of N-[2,4-dichloro-5-(1-ethoxycarbonylethyloxy)phenyl]-3,4,5,6-tetrahydrophthalimide, 3.40 g. of methanesulfonic acid and 35 ml. of 86% formic acid was refluxed with stirring for 15 hours and the reaction mixture was cooled to room temperature and water was added and the product was extracted with ethyl acetate. The extract was concentrated under a reduced pressure and the oily product was admixed with n-hexane and was triturated to obtain the crystals. The product was recrystallized from benzene-cyclohexane to obtain 8.7 g. of Compound No. 11 shown in Table 1.

reactant | N-[2,4-dichloro-5-(1-ethoxycarbonylethyloxy)phenyl]-3,4,5,6-tetrahydrophthalimide | ClC1=C(C=C(C(=C1)Cl)OC(C)C(=O)OCC)N1C(C2=C(C1=O)CCCC2)=O | C19H19Cl2NO5
reactant | methanesulfonic acid | CS(=O)(=O)O | CH4O3S
reactant | formic acid | C(=O)O | CH2O2
solvent | water | O | H2O
product | N-[2,4-dichloro-5-(1-carboxyethyloxy)phenyl]-3,4,5,6-tetrahydrophthalimide | ClC1=C(C=C(C(=C1)Cl)OC(C)C(=O)O)N1C(C2=C(C1=O)CCCC2)=O | C17H15Cl2NO5
